US07723367B2
6-chloro-5-fluoro-2-[(1-methylpyrrolidin-3-yl)oxy]nicotinonitrile
3-cyano-2,6-dichloro-5-fluoropyridine was reacted with 1-methyl-pyrrolidin-3-ol according to the method of Example 85A to provide the title compound. MS (ESI+) m/z 256 (M+H)+.

reactant | 3-cyano-2,6-dichloro-5-fluoropyridine | C(#N)C=1C(=NC(=C(C1)F)Cl)Cl | C6HCl2FN2
reactant | 1-methyl-pyrrolidin-3-ol | CN1CC(CC1)O | C5H11NO
product | 6-chloro-5-fluoro-2-[(1-methylpyrrolidin-3-yl)oxy]nicotinonitrile | ClC1=NC(=C(C#N)C=C1F)OC1CN(CC1)C | C11H11ClFN3O
